US07384931B2
(S)-9-Neopentyl-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
Title compound was prepared from 3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride in a manner analogous to the preparation of 9-(2,2-Dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Material was obtained as white solid in 31% yield. MS m/e (M+H)+=540.2. 1H NMR (500 MHz, DMSO-D6): δ=11.76 (s, 1H), 8.22 (s, 1H), 7.70 (d, J=8.85, 1H), 7.62 (s, 1H), 7.43 (t, J=7.48, 1H), 7.37 (d, J=8.55, 1H), 7.28 (d, J=8.24, 1H), 7.15 (t, J=7.32, 1H) 7.11 (d, J=8.55, 1H), 5.38 (d, J=17.09, 1H), 4.62 (d, J=16.79, 1H), 4.55 (d, J=11.29, 1H), 4.13 (s, 1H), 3.88 (s, 1H), 3.58 (s, 2H), 3.16 (m, 2H), 3.07 (m, 3H), 2.88 (t, J=14.34, 1H), 2.64 (m, 1H), 2.36 (m, 1H), 1.92 (d, J=10.38, 1H), 1.84 (d, J=11.29, 1H), 1.57 (m, 1H), 1.40 (m, 1H), 0.73 (s, 9H).

reactant | 3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
reactant | 9-(2,2-Dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | CC(CN1C([C@H](CC2=C(C=3C=NNC3C=C2)C1)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)=O)(C)C | C31H38N6O3
product | (S)-9-Neopentyl-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 31% yield | C(C(C)(C)C)N1CC=2C=3C=NNC3C=CC2C[C@H](C1=O)CC(N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O)=O | C32H37N5O3
